### PR TITLE
feat(ModularForms/ResToImagAxis): polynomial decay for cusp forms on imaginary axis

### LINKED ISSUE #210: $t^k A(it) \to 0$ as $t \to \infty$ for cusp form $A$
If $A(z)$ is a cusp (quasimodular)form, then $t^k A(it) \to 0$ for any $k \in \mathbb{R}$.

### PR DESCRIPTION
**Pull request by cameronfreer**
Closes #210

## Summary

Proves that if `F : ℍ → ℂ` has exponential decay `O(exp(-c * im τ))` at infinity, then `t^s * F(it) → 0` as `t → ∞` for any real power `s`.

This establishes the polynomial decay needed for contour integrals involving cusp forms along the imaginary axis.

## New Theorems

- **`isBigO_resToImagAxis_of_isBigO_atImInfty`**: Transfers a big-O bound from the `atImInfty` filter to `atTop` for the restriction to the imaginary axis.

- **`tendsto_rpow_mul_of_isBigO_exp`**: The analytic kernel - if `g : ℝ → ℂ` is `O(exp(-b*t))` for `b > 0`, then `t^s * g(t) → 0` as `t → ∞` for any real `s`. Uses mathlib's `tendsto_rpow_mul_exp_neg_mul_atTop_nhds_zero`.

- **`tendsto_rpow_mul_resToImagAxis_of_isBigO_exp`**: Main theorem - if `F : ℍ → ℂ` is `O(exp(-c * im τ))` at infinity, then `t^s * F(it) → 0` as `t → ∞`.

- **`cuspForm_rpow_mul_resToImagAxis_tendsto_zero`**: Specialization for cusp forms - for any cusp form `f` of level `Γ(n)`, we have `t^s * f(it) → 0` as `t → ∞`. Uses `CuspFormClass.exp_decay_atImInfty`.

## Verification

- All proofs compile with `lake build`
- Uses only standard mathlib axioms (propext, Classical.choice, Quot.sound)
- No sorries or custom axioms in the new code

## Test plan

- [x] `lake build` passes
- [x] `#print axioms` shows only standard axioms

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

**Comment by cameronfreer** [comment]
awaiting-review

**Comment by cameronfreer** [comment]
I just golfed 3 of the 4 proofs, substantially shortening one of them.

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 1]
```diff
@@ -198,3 +202,77 @@ theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
...
+  have ht_pos : 0 < t := lt_of_lt_of_le one_pos (le_of_max_le_right ht)
+  have ht_A : A ≤ t := le_of_max_le_left ht
+  simp only [Function.resToImagAxis, ResToImagAxis, ht_pos, ↓reduceDIte]
+  set z : ℍ := ⟨Complex.I * t, by simp [ht_pos]⟩
+  have him : z.im = t := by
+    change (Complex.I * t).im = t
+    simp only [Complex.mul_im, Complex.I_re, Complex.ofReal_im, mul_zero, Complex.I_im,
+      Complex.ofReal_re, one_mul, zero_add]
+  specialize hA z (by rw [him]; exact ht_A)
+  simpa only [him] using hA
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
    simp
  have hAz : A ≤ z.im := by simpa [him] using ht_A
  specialize hA z hAz
  simpa [him] using hA
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 2]
```diff
@@ -198,3 +202,77 @@ theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
...
+    Tendsto (fun t : ℝ => (t : ℂ) ^ (s : ℂ) * F.resToImagAxis t) atTop (𝓝 0) :=
+  tendsto_rpow_mul_of_isBigO_exp hc (isBigO_resToImagAxis_of_isBigO_atImInfty hc hF)
+
+open Filter Asymptotics Real UpperHalfPlane CuspFormClass in
+/--
+For a cusp form `f` of level `Γ(n)`, we have `t^s * f(it) → 0` as `t → ∞` for any real power `s`.
+
+This follows from the exponential decay of cusp forms at infinity: `f = O(exp(-2π τ.im / n))`.
+-/
+theorem cuspForm_rpow_mul_resToImagAxis_tendsto_zero {n : ℕ} {k : ℤ} {F : Type*}
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean:261]: This theorem is for the "modular forms", where we need a theorem for "quasimodular" forms, which is more general class. For example, we want to apply this when $F(z) = (E_2(z) E_4(z) - E_6(z))^2$ that is not a modular form, but has an exponential decay at the cusp. We don't have a formalized definition of quasimodular forms in this repository and not planning to do it, but rather proving theorems that are enough to cover the specific quasimodular forms used in the proof. But I think `tendsto_rpow_mul_resToImagAxis_of_isBigO_exp` is useful for the actual purpose. A version of theorem that is certainly useful will be something like: if a holomorphic function $F$ has a Fourier expansion $F(z) = \sum_{n \ge n_0} a_n e^{2 \pi i n z}$ with $n_0 > 0$, then $t^k F(it) \to 0$ as $t \to \infty$.

Comment (cameronfreer) [reply SpherePacking/ModularForms/ResToImagAxis.lean:261]: Makes sense, thanks. I now have this (modulo a summability criterion on the coefficients):

[L216-L222](https://github.com/cameronfreer/Sphere-Packing-Lean/blob/6c1ad47c27ea44a18743d23910d98eb3060cff29/SpherePacking/ModularForms/ResToImagAxis.lean#L216-L222)

```lean
/--
If `F : ℍ → ℂ` is `O(exp(-c * im τ))` at `atImInfty` for some `c > 0`, then
the restriction to the imaginary axis `t ↦ F(it)` is `O(exp(-c * t))` at `atTop`.
-/
lemma isBigO_resToImagAxis_of_isBigO_atImInfty {F : ℍ → ℂ} {c : ℝ} (_hc : 0 < c)
    (hF : F =O[atImInfty] fun τ => Real.exp (-c * τ.im)) :
    F.resToImagAxis =O[atTop] fun t => Real.exp (-c * t) := by
```



[L285-L298](https://github.com/cameronfreer/Sphere-Packing-Lean/blob/6c1ad47c27ea44a18743d23910d98eb3060cff29/SpherePacking/ModularForms/ResToImagAxis.lean#L285-L298)

```lean
/--
If `F` has a Fourier expansion `∑_{m≥0} a_m exp(2πi(m+n₀)z)` with `n₀ > 0`,
and the coefficients are absolutely summable at height `im z = 1`,
then `F = O(exp(-2π n₀ · im z))` at `atImInfty`.

The key bound is: for `im z ≥ 1`,
  `‖F(z)‖ ≤ (∑_m ‖a_m‖ · exp(-2π m)) · exp(-2π n₀ · im z)`
-/
lemma isBigO_atImInfty_of_fourier_shift
    {F : ℍ → ℂ} {a : ℕ → ℂ} {n₀ : ℕ} (_hn₀ : 0 < n₀)
    (hF : ∀ z : ℍ, F z =
      ∑' m : ℕ, a m * cexp (2 * π * I * ((m + n₀ : ℕ) : ℂ) * (z : ℂ)))
    (ha : Summable (fun m : ℕ => ‖a m‖ * rexp (-(2 * π) * (m : ℝ)))) :
    F =O[atImInfty] fun z : ℍ => rexp (-(2 * π * (n₀ : ℝ)) * z.im) := by
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 3]
```diff
@@ -198,3 +202,173 @@ theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
...
+
+/-!
+## Fourier expansion approach for polynomial decay
+
+This section provides an alternative approach to polynomial decay that works directly from
+Fourier expansions. If `F` has a Fourier expansion `∑_{m≥0} a_m exp(2πi(m+n₀)z)` with `n₀ > 0`,
+then `F = O(exp(-2π n₀ · im z))` at `atImInfty`, which gives `t^s * F(it) → 0`.
+
+This is useful for functions defined by explicit q-expansions (like `(E₂E₄ - E₆)²`)
+where we know the Fourier expansion starts at a positive index.
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
This is useful for functions with q-expansions starts at a positive index (like `(E₂E₄ - E₆)²`).
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 4]
```diff
@@ -198,3 +202,173 @@ theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
...
+
+open Filter Asymptotics Real Complex in
+/--
+If `F` has a Fourier expansion `∑_{m≥0} a_m exp(2πi(m+n₀)z)` with `n₀ > 0`,
+and the coefficients are absolutely summable at height `im z = 1`,
+then `F = O(exp(-2π n₀ · im z))` at `atImInfty`.
+
+The key bound is: for `im z ≥ 1`,
+  `‖F(z)‖ ≤ (∑_m ‖a_m‖ · exp(-2π m)) · exp(-2π n₀ · im z)`
+-/
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean:289]: I believe this is enough but also can be generalized by replacing summability at `im z = 1` to any `im z = c` with c > 0. For the actual applications, the sum should be absolutely summable for all z in upper half plane so the current version is still enough (the coefficients `a` usually have polynomial growth and $\sum |a_m| e^{-2\pi c m}$ converges for all $c > 0$, in practice; of course we don't need such assumption on `a` in this theorem).

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 5]
```diff
@@ -198,3 +202,173 @@ theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
...
+    (ha : Summable (fun m : ℕ => ‖a m‖ * rexp (-(2 * π) * (m : ℝ)))) :
+    F =O[atImInfty] fun z : ℍ => rexp (-(2 * π * (n₀ : ℝ)) * z.im) := by
+  rw [Asymptotics.isBigO_iff]
+  refine ⟨∑' m, ‖a m‖ * rexp (-(2 * π) * m), ?_⟩
+  rw [Filter.eventually_atImInfty]
+  refine ⟨1, fun z hz => ?_⟩
+  rw [hF z, Real.norm_of_nonneg (le_of_lt (Real.exp_pos _))]
+  -- Real part of 2πi(m+n₀)z is -2π(m+n₀)·im z
+  have hexp_re m : (2 * π * I * ((m + n₀ : ℕ) : ℂ) * z).re = -(2 * π) * (m + n₀) * z.im := by
+    have : ((m + n₀ : ℕ) : ℂ).re = (m + n₀ : ℝ) := by simp
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: Is there a way to avoid coercing twice? I tried on local and somehow looks necessary, but I don't understand why.

File: SpherePacking/ModularForms/ResToImagAxis.lean (hunk 4 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ResToImagAxis.lean:289]: Thanks, I've generalized `isBigO_atImInfty_of_fourier_shift` and `tendsto_rpow_mul_resToImagAxis_of_fourier_shift` in [e1c2836](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/232/changes/e1c2836268863cf90fc7a18a230230851e2bf52e).

File: SpherePacking/ModularForms/ResToImagAxis.lean (hunk 5 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ResToImagAxis.lean]: Good idea, thanks. It worked by adding `Nat.cast_add`, `natCast_re`, and `natCast_im` to the `simp only`:
[ba323e8
](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/232/changes/ba323e8375d4ae139320b1d94e011734e5ce255d)

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 6]
```diff
@@ -198,3 +202,170 @@ theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
...
+/-!
+## Polynomial decay of functions with exponential bounds
+
+This section establishes that if a function `F : ℍ → ℂ` is `O(exp(-c * im τ))` at infinity,
+then `t^s * F(it) → 0` as `t → ∞` for any real power `s`.
+
+One application is to cusp forms, which satisfy such exponential decay bounds.
+-/
+
+open Filter Asymptotics in
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: For this and similar `open ... in`s, it might be better to simply add `Filter` and `Asymptotics` in the initial opens.

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 7]
```diff
@@ -198,3 +202,170 @@ theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
...
+/--
+If `F : ℍ → ℂ` is `O(exp(-c * im τ))` at `atImInfty` for some `c > 0`, then
+`t^s * F(it) → 0` as `t → ∞` for any real power `s`.
+-/
+theorem tendsto_rpow_mul_resToImagAxis_of_isBigO_exp {F : ℍ → ℂ} {c : ℝ} (hc : 0 < c)
+    (hF : F =O[atImInfty] fun τ => rexp (-c * τ.im)) (s : ℝ) :
+    Tendsto (fun t : ℝ => (t : ℂ) ^ (s : ℂ) * F.resToImagAxis t) atTop (𝓝 0) :=
+  tendsto_rpow_mul_of_isBigO_exp hc (isBigO_resToImagAxis_of_isBigO_atImInfty hc hF)
+
+open Filter Asymptotics Real UpperHalfPlane CuspFormClass in
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: Similar as above, and `Real` and `UpperHalfPlane` are already open. Then we can simply do `CuspFormClass.exp_decay_atImInfty` which is the only place we need for `CuspFormClass`.

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 8]
```diff
@@ -198,3 +202,170 @@ theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
...
+
+This converts a Fourier expansion representation directly into polynomial decay on the
+imaginary axis.
+-/
+theorem tendsto_rpow_mul_resToImagAxis_of_fourier_shift
+    {F : ℍ → ℂ} {a : ℕ → ℂ} {n₀ : ℕ} {c : ℝ} (hn₀ : 0 < n₀) (hc : 0 < c)
+    (hF : ∀ z : ℍ, F z =
+      ∑' m : ℕ, a m * Complex.exp (2 * π * Complex.I * ((m + n₀ : ℕ) : ℂ) * (z : ℂ)))
+    (ha : Summable (fun m : ℕ => ‖a m‖ * rexp (-(2 * π * c) * (m : ℝ))))
+    (s : ℝ) :
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
    (ha : Summable (fun m : ℕ => ‖a m‖ * rexp (-(2 * π * c) * (m : ℝ)))) (s : ℝ) :
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 9]
```diff
@@ -198,3 +202,170 @@ theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
...
+  have hexp_re m : (2 * π * I * ((m + n₀ : ℕ) : ℂ) * z).re = -(2 * π) * (m + n₀) * z.im := by
+    simp only [Nat.cast_add, mul_re, re_ofNat, ofReal_re, im_ofNat, ofReal_im, mul_zero, sub_zero,
+      Complex.I_re, mul_im, zero_mul, add_zero, Complex.I_im, mul_one, sub_self, add_re, natCast_re,
+      add_im, natCast_im, coe_re, zero_add, coe_im, zero_sub, neg_mul]
+  -- Key bound: for y ≥ c, exp(-(2π)(m+n₀)y) ≤ exp(-(2πc)m) * exp(-(2πc)n₀)
+  have hexp_bound (m : ℕ) :
+      rexp (-(2 * π) * (↑m + ↑n₀) * z.im) ≤
+        rexp (-(2 * π * c) * m) * rexp (-(2 * π * c) * n₀) := by
+    rw [← Real.exp_add, Real.exp_le_exp]
+    have key : (↑m + ↑n₀) * z.im ≥ (↑m + ↑n₀) * c := by nlinarith
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
    have _ : (↑m + ↑n₀) * z.im ≥ (↑m + ↑n₀) * c := by nlinarith
```

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 10]
```diff
@@ -198,3 +202,170 @@ theorem ResToImagAxis.EventuallyPos.hmul {F : ℍ → ℂ} {c : ℝ}
...
+This converts a Fourier expansion representation directly into polynomial decay on the
+imaginary axis.
+-/
+theorem tendsto_rpow_mul_resToImagAxis_of_fourier_shift
+    {F : ℍ → ℂ} {a : ℕ → ℂ} {n₀ : ℕ} {c : ℝ} (hn₀ : 0 < n₀) (hc : 0 < c)
+    (hF : ∀ z : ℍ, F z =
+      ∑' m : ℕ, a m * Complex.exp (2 * π * Complex.I * ((m + n₀ : ℕ) : ℂ) * (z : ℂ)))
+    (ha : Summable (fun m : ℕ => ‖a m‖ * rexp (-(2 * π * c) * (m : ℝ))))
+    (s : ℝ) :
+    Tendsto (fun t : ℝ => (t : ℂ) ^ (s : ℂ) * F.resToImagAxis t) atTop (𝓝 0) :=
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean]:
```suggestion
    Tendsto (fun t : ℝ => t ^ (s : ℂ) * F.resToImagAxis t) atTop (𝓝 0) :=
```
